US05405853
b) 1-t-Butyloxycarbonyl-3-methoxycarbonyl pyrrolidine
To a solution of 3-methoxycarbonylpyrrolidine (10 g, 0.077 mol) in dichloromethane (50 ml) at 4° C. was added dropwise a solution of di-t-butyl-dicarbonate (16.9 g, 0.077 mol) in dichloromethane (50 ml). The solution was stirred at 20° C. for 16 hours then evaporated under reduced pressure. The residue was purified by chromatography on silica (eluting with methanol/dichloromethane (1:100)) to give the title compound as a colourless oil (12.9 g); νmax (liquid film) 1740 cm-1 (C=O): m/e 230 (M+1)+ ; δ (360 MHz, CDCl3) 1.46 (9H,s,C(CH3)3, 2.10-2.15 (2H,m,4CH2), 3.00-3.10 (1H,m) with 3.25-3.40 (1H,m) and 3.44-3.68 (3H,m) (2CH2, 3CH and 5CH2) and 3.71 (3H,s,OCH3).

reactant | 3-methoxycarbonylpyrrolidine | 0.077 mol, 10 g | COC(=O)C1CNCC1 | C6H11NO2
reactant | di-t-butyl-dicarbonate | 0.077 mol, 16.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-t-Butyloxycarbonyl-3-methoxycarbonyl pyrrolidine | 12.9 g | C(C)(C)(C)OC(=O)N1CC(CC1)C(=O)OC | C11H19NO4
